US07098240B2
b) 2-[(Aminocarbonyl)amino]-4-methyl-5-(1,4-benzodioxan-6-yl)-3-thiophenecarboxamide
2-Amino-4-methyl-5-(1,4-benzodioxan-6-yl)-3-thiophencarboxamide (0.44 g) was dissolved in tetrahydrofuran (10 ml), cooled to 0° C. and trichloroacetylisocyanate (0.11 ml) added dropwise with stirring. Stirring was continued for a further 30 minutes at room temperature and then a solution of ammonia in methanol (8 ml of a 10% solution) was added and stirring was continued for a further 3 h. The solvent was evaporated and the residue treated with ethyl acetate and the product filtered off.

reactant | 2-Amino-4-methyl-5-(1,4-benzodioxan-6-yl)-3-thiophencarboxamide | 0.44 g | NC=1SC(=C(C1C(=O)N)C)C1=CC2=C(OCCO2)C=C1 | C14H14N2O3S
reactant | trichloroacetylisocyanate | 0.11 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-[(Aminocarbonyl)amino]-4-methyl-5-(1,4-benzodioxan-6-yl)-3-thiophenecarboxamide | NC(=O)NC=1SC(=C(C1C(=O)N)C)C1=CC2=C(OCCO2)C=C1 | C15H15N3O4S
